US07087626B2
4-Phenethyl-dihydro-furan-2-one
A mixture of 3-benzyloxymethyl-5-phenyl-pent-2-enoic acid methyl ester, (3.2 g, 13.5 mmol), 10 wt. % palladium on activated carbon (3.2 g), and acetic acid (40 mL) is placed in a Parr® Shaker under hydrogen (45 PSI) and shaken 4 h. The mixture is filtered through a pad of Celite® and concentrated in vacuo. The residue is dissolved in toluene (30 mL), treated with p-tolunesulfonic acid (0.1 g), refluxed for 2 h and concentrated in vacuo. The residue is chromatographed on SiO2 (10% ethyl acetate/hexanes then 50% ethyl acetate/hexanes) to yield the title compound 1.2 g (62%) as a colorless liquid.

reactant | 3-benzyloxymethyl-5-phenyl-pent-2-enoic acid methyl ester | 13.5 mmol, 3.2 g | COC(C=C(CCC1=CC=CC=C1)COCC1=CC=CC=C1)=O | C20H22O3
catalyst | palladium on activated carbon | 3.2 g | [Pd] | Pd
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 4-Phenethyl-dihydro-furan-2-one | 1.2 g, 62% | C(CC1=CC=CC=C1)C1CC(OC1)=O | C12H14O2
